2117-10-04 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2117-10-3**] 09:15 AM
 ARTERIAL LINE - START [**2117-10-3**] 11:30 PM
   -Intubated yesterday AM  for respiratory failure
   -CT torso (w/o IV contrast) showed:
   1. Large L- pleural effusion, w/ near complete collapse and
   consolidation of L-lungs
   2. Moderate-to-large R pleural effusion.
   3. Ascites, with diffuse nodularity of the peritoneum, suspicious for
   peritoneal carcinomatosis.
   4. Mesenteric lymphadenopathy.
   5. Ill-defined lesion within the left lower pelvis, in the expected
   location of the uterus and adnexa, with calcifications seen. The origin
   and etiology of this lesion is unclear without intravenous contrast,
   and could reflect a uterine fibroid, or adnexal lesion. This can be
   correlated by ultrasound if clinically indicated.
   6. Prominence of the cecal and sigmoid colonic walls. Correlate with
   colonoscopy findings.
   -Thoracentesis done (2300 mL off); chest tube placed to water seal
   -Renal recs: etiology of renal failure is pre-renal, can treat with
   fluids; at high risk of transition to ATN; need to determine baseline
   creatinine
   -Obtained outside records from [**Hospital3 **] (in chart) -
   thoracentesis cultures negative to date
   -Will need gyn/onc consult
   -Placed left femoral a-line after failed attempts at both radial
   arteries
   -Will need central line (so that right femoral central venous line can
   be d/c'ed)
   -Received multiple fluid boluses for decreased urine output
   -Vigileo showed cardiac index good, improved with fluid bolus of 1L,
   urine output also improved with fluid bolus of 1 liter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-3**] 03:19 AM
   Vancomycin - [**2117-10-3**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-4**] 12:30 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-3**] 01:20 PM
   Heparin Sodium (Prophylaxis) - [**2117-10-4**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-4**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 73 (60 - 97) bpm
   BP: 91/52(65) {91/50(65) - 141/73(95)} mmHg
   RR: 28 (11 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
             Total In:
                                                                  4,809 mL
                                                                  2,310 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,849 mL
                                                                  2,250 mL
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                    720 mL
   Urine:
                                                                    425 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,084 mL
                                                                  1,590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/50/167/23/-2
   Ve: 7.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   GENERAL: intubated, sedated
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB.
   LUNGS: CTAB, decreased breaths sounds bilaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Alert, oriented and appropriate. Speech fluent, but difficulty
   competing sentences  Moves all extremities.
   Labs / Radiology
   381 K/uL
   9.3 g/dL
   136 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   57 mg/dL
   103 mEq/L
   135 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2117-10-3**]  04:06 AM
                             [**2117-10-3**]  09:04 AM
                             [**2117-10-3**]  01:45 PM
                             [**2117-10-3**]  11:13 PM
                             [**2117-10-3**]  11:23 PM
                             [**2117-10-4**]  03:05 AM
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
   WBC
   13.7
   13.8
   13.0
   Hct
   32.3
   35.8
   31
   30.8
   Plt
   379
   399
   381
   Cr
   2.5
   2.3
   2.1
   TCO2
   31
   29
   27
   26
   25
   Glucose
   122
   124
   136
   Other labs: PT / PTT / INR:13.2/35.0/1.1, ALT / AST:14/20, Alk Phos / T
   Bili:67/0.3, Lactic Acid:1.9 mmol/L, LDH:192 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ CAD s/p CABG ([**2096**]), x-fer from [**Hospital1 608**] for hypotension,
   renal failure and cancer workup, likely ovarian primary.
   #. Hypotension: Low BP and elevated WBC suggest possible sepsis,
   distrubutive shock .  Pericardial effusion is also unlikely w/o low
   voltage EKG and no JVD, no effusion of CT chest. Infectious sources
   could be GI given carcinomatosis as well as pulmonary given recent dx
   PNA. Although there was no definate infiltrate on CT chest, there was
   significant lung collapse and effusion to make evaluation difficult. UA
   neg.
   - Vanc and Zosyn, will need to dose vanc by level (holding for now
   given renal function)
   - hold anti-HTN and lasix
   - continue  Levophed and vasopressin as needed for MAP >60, SBP >90.
   -Minimize IVF boluses, but use as needed to keep MAP > 60
   - f/u cultures from [**Hospital1 608**] as well as [**Hospital1 19**]
   - [**Last Name (un) 402**] stim test
   .
   # Hypoxic respiratory failure, likely [**12-28**] to significant effusions,
   left lung collapse, +/- PNA.  Significantly worsening this AM.
   -Intubate, start on mechanical ventilation with AC, tidal volume
   4ml/kg, FiO2 at 100% (wean as tolerated), PEEP [**4-2**].
   -Sedation with Versed and Fentanyl.
   -CXR to evaluate ETT tube and OGT placement
   -Chest tube to decompress pleural space
   - will need thoracentesis
   -F/u serial ABGs
   -Arterial line
   -CT of chest and a/p today (without IV contrast)
   -Hard copies of scans from OSH, cytologies from OSH
   - Vanc/zosyn
   - increase tidal volume
   - consider decreasing PEEP to 8 from 10
   .
   #. Oliguric renal failure: cr 2.5 this AM, slightly improved, bland
   sediment, minimal UOP - pre-renal vs ATN. Renal failure may be
   secondary to low BP, but may also have a component of a more chronic
   process.  No evidence of obstruction / no hydronephrosis on OSH CT.
   - hold lasix and anti-HTN
   - urine lytes
   - f/u CT a/p
   - urine eos
   - renal consult
   - monitor UOP
   .
   #.  New carcinomatosis on CT / pleural effusions: last CA screening
   (mammogram, pap and colonoscopy 10-20 years ago).  Concerning due to
   elevated CEA and CA125.
   -Cytologies from OSH recent thoracentesis
   -F/u cytologies from pleural fluid here
   - gyn/onc cs
   .
   #. hx CAD s/p CABG [**37**] years ago:
   - cont asa, statin
   - hold BB
   .
   FEN: regular diet
   .
   PPX:
   -DVT ppx with heparin SC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 12:31 AM.  Replace femoral line tomorrow.
   22 Gauge - [**2117-10-3**] 12:43 AM
   Prophylaxis:
   DVT: Boots / Heparin SC
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-10-04 09:01:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 y.o. woman with massive left pleural effusion and likely malignant
   ascites now intubated.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2117-10-3**] 09:15 AM' omtibated after
   rounds yesterday given increasing respiratory distress; work of
   breathing increased, appeared to be tiring
 ARTERIAL LINE - START [**2117-10-3**] 11:30 PM - right femoral a-line
   placed
   CT chest shows left greater than right pleural effusion
   Thorocentesis 2300 cc, chest tube placed by surgical service; CT to
   water seal.
   Had been able to decrease pressors slightly overnight as she was
   responsive to IVF challenges.  This am she had documented BP 80/50, MAP
   50 - increased levo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-3**] 03:19 AM
   Vancomycin - [**2117-10-3**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-4**] 12:30 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-3**] 01:20 PM
   Heparin Sodium (Prophylaxis) - [**2117-10-4**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Intubated
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-4**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 76 (60 - 97) bpm
   BP: 103/55(71) {91/50(65) - 141/73(95)} mmHg
   RR: 27 (11 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
             Total In:
                                                                  4,809 mL
                                                                  2,353 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,849 mL
                                                                  2,293 mL
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                    720 mL
   Urine:
                                                                    425 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,084 mL
                                                                  1,633 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 94%
   ABG: 7.29/50/167/23/-2
   Ve: 7.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   381 K/uL
   136 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   57 mg/dL
   103 mEq/L
   135 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2117-10-3**]  04:06 AM
                             [**2117-10-3**]  09:04 AM
                             [**2117-10-3**]  01:45 PM
                             [**2117-10-3**]  11:13 PM
                             [**2117-10-3**]  11:23 PM
                             [**2117-10-4**]  03:05 AM
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
   WBC
   13.7
   13.8
   13.0
   Hct
   32.3
   35.8
   31
   30.8
   Plt
   379
   399
   381
   Cr
   2.5
   2.3
   2.1
   TCO2
   31
   29
   27
   26
   25
   Glucose
   122
   124
   136
   Other labs: PT / PTT / INR:13.2/35.0/1.1, ALT / AST:14/20, Alk Phos / T
   Bili:67/0.3, Lactic Acid:1.9 mmol/L, LDH:192 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: Pleural Fluid:  Pro - 4.6     LDH-114
   PH-7.32
   >20,000 RBC, 500 WBC, 7 PMNs/60 lymphs/50 monos
   Imaging: CXR:  ETT in good position ~4cm above the carina, bilateral
   effusions, chest tube in place on left, no PTX
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to pleural
   effusions now s/p large volume thorocentesis and chest tube placement
   on the left, now at water seal.  Relatively hypoventilated (pCO2 50),
   oxygenating well.  Decrease PEEP to 8, plan to increase tidal volumes
   6-8 mg/kg.  Also being empirically treated with vanco/zosyn.  Minimal
   secretions per the ETT.   Also [**Last Name (un) 402**] stim testing.  WBC slightly
   decreased.
 PLERUAL EFFUSIONS:  Pleural fluid chemistries consistent with
   exudate.  Culutre and cytology pending.
 HYPOTENSION (NOT SHOCK):  Continues on levo/vasopressin.  Responsive
   to IVF boluses overnight.  Hypotensive this am prompting increase in
   levo.  Plan for continued volume resusitation.  No new culture data.
   Continues broad spectrum antibiotics as above. Follow up on outside
   hospital cultures as well.  Has two groin lines in place, plan to
   resite a-line and central line today.  Check echo today.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Workup as per housestaff note.  Consult
   gynecological oncology.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr improving, some
   increase in urine output with IVF challenges albeit continues
   oliguric.  Doing meds accordingly.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 12:31 AM
   Arterial Line - [**2117-10-3**] 11:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 65 minutes
   Patient is critically ill

2117-10-05 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hypercarbic resp acidosis on ABG, will up Vt
   - bolus 1 L NS, still on levophed/ vasopressin
   - re-site central line (fem to IJ) and fem art to radial
   - started TF today, nutrition recs are in!
   - ct zosyn, vanc per renal dosing recs (cr 2.1 today slightly improved)
   - gyn onc c/s
   - f/u OSH recs
   - need to fix central line (tried pulling it back 5cm and repositioning
   but still not right- will try again in AM, pt has fem line working)
   - did not re-site fem a-line d/t possible extubation in AM, will try PS
   [**3-30**] sbt
   - d/c vigileo (vigi-who?) after re-siting or d/c-ing fem line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-4**] 12:30 AM
   Piperacillin - [**2117-10-4**] 10:55 PM
   Vancomycin - [**2117-10-5**] 01:34 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-4**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-5**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 76 (60 - 76) bpm
   BP: 94/50(64) {52/35(42) - 148/82(96)} mmHg
   RR: 16 (11 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
    CVP: 8 (6 - 8)mmHg
   Total In:
                                                                  6,160 mL
                                                                  1,518 mL
   PO:
   TF:
                                                                      5 mL
                                                                     71 mL
   IVF:
                                                                  6,095 mL
                                                                  1,448 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    790 mL
   Urine:
                                                                  1,250 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,440 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (280 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/35/130/22/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 325
   Physical Examination
   GENERAL: intubated, sedated
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB.
   LUNGS: CTAB, decreased breaths sounds bilaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Alert, oriented and appropriate. Speech fluent, but difficulty
   competing sentences  Moves all extremities.
   Labs / Radiology
   340 K/uL
   8.9 g/dL
   144 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.3 mEq/L
   42 mg/dL
   108 mEq/L
   139 mEq/L
   28.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2117-10-3**]  09:04 AM
                             [**2117-10-3**]  01:45 PM
                             [**2117-10-3**]  11:13 PM
                             [**2117-10-3**]  11:23 PM
                             [**2117-10-4**]  03:05 AM
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
   WBC
   13.8
   13.0
   11.0
   Hct
   35.8
   31
   30.8
   28.1
   Plt
   399
   381
   340
   Cr
   2.3
   2.1
   1.3
   TCO2
   31
   29
   27
   26
   25
   24
   23
   Glucose
   124
   136
   144
   Other labs: PT / PTT / INR:13.3/35.5/1.1, ALT / AST:14/20, Alk Phos / T
   Bili:67/0.3, Differential-Neuts:85.5 %, Lymph:7.6 %, Mono:5.8 %,
   Eos:1.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:192 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ CAD s/p CABG ([**2096**]), x-fer from [**Hospital1 608**] for hypotension,
   renal failure and cancer workup, likely ovarian primary.
   #. Hypotension: Low BP and elevated WBC suggest possible sepsis,
   distrubutive shock .  Pericardial effusion is also unlikely w/o low
   voltage EKG and no JVD, no effusion of CT chest. Infectious sources
   could be GI given carcinomatosis as well as pulmonary given recent dx
   PNA. Although there was no definate infiltrate on CT chest, there was
   significant lung collapse and effusion to make evaluation difficult. UA
   neg.
   - Vanc and Zosyn, will need to dose vanc by level (holding for now
   given renal function)
   - hold anti-HTN and lasix
   - continue  Levophed and vasopressin as needed for MAP >60, SBP >90.
   -Minimize IVF boluses, but use as needed to keep MAP > 60
   - f/u cultures from [**Hospital1 608**] as well as [**Hospital1 19**]
   - [**Last Name (un) 402**] stim test
   .
   # Hypoxic respiratory failure, likely [**12-28**] to significant effusions,
   left lung collapse, +/- PNA.  Significantly worsening this AM.
   -Intubate, start on mechanical ventilation with AC, tidal volume
   4ml/kg, FiO2 at 100% (wean as tolerated), PEEP [**4-2**].
   -Sedation with Versed and Fentanyl.
   -CXR to evaluate ETT tube and OGT placement
   -Chest tube to decompress pleural space
   - will need thoracentesis
   -F/u serial ABGs
   -Arterial line
   -CT of chest and a/p today (without IV contrast)
   -Hard copies of scans from OSH, cytologies from OSH
   - Vanc/zosyn
   - increase tidal volume
   - consider decreasing PEEP to 8 from 10
   .
   #. Oliguric renal failure: cr 2.5 this AM, slightly improved, bland
   sediment, minimal UOP - pre-renal vs ATN. Renal failure may be
   secondary to low BP, but may also have a component of a more chronic
   process.  No evidence of obstruction / no hydronephrosis on OSH CT.
   - hold lasix and anti-HTN
   - urine lytes
   - f/u CT a/p
   - urine eos
   - renal consult
   - monitor UOP
   .
   #.  New carcinomatosis on CT / pleural effusions: last CA screening
   (mammogram, pap and colonoscopy 10-20 years ago).  Concerning due to
   elevated CEA and CA125.
   -Cytologies from OSH recent thoracentesis
   -F/u cytologies from pleural fluid here
   - gyn/onc cs
   .
   #. hx CAD s/p CABG [**37**] years ago:
   - cont asa, statin
   - hold BB
   .
   FEN: regular diet
   .
   PPX:
   -DVT ppx with heparin SC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 12:31 AM
   22 Gauge - [**2117-10-3**] 12:43 AM
   Prophylaxis:
   DVT: Boots / Heparin SC
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-10-05 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 y.o. woman with massive left pleural effusion and likely malignant
   ascites now intubated.
   24 Hour Events:
 MULTI LUMEN - START [**2117-10-4**] 06:30 PM; in azogus vein
   Echo:  LVH, LVEF>55%, can't exclude focal WMA, mildly dilated aortic
   root, 1+ AR/MR; no effusion
   Sedation off since 6 am, appears comfortable, eyes open
   Continues on two pressors
   Opens eyes to touch
   Minimal respiratory secretions
   Patient unable to provide history: ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-4**] 12:30 AM
   Vancomycin - [**2117-10-5**] 01:34 AM
   Piperacillin - [**2117-10-5**] 08:02 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-5**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2117-10-5**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-5**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 77 (60 - 78) bpm
   BP: 81/46(58) {52/35(42) - 142/82(96)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
             Total In:
                                                                  6,160 mL
                                                                  1,779 mL
   PO:
             TF:
                                                                      5 mL
                                                                    118 mL
   IVF:
                                                                  6,095 mL
                                                                  1,660 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    885 mL
   Urine:
                                                                  1,250 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,440 mL
                                                                    894 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/35/130/22/-1
   Ve: 8.1 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently,
   Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   340 K/uL
   144 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.3 mEq/L
   42 mg/dL
   108 mEq/L
   139 mEq/L
   28.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2117-10-3**]  09:04 AM
                             [**2117-10-3**]  01:45 PM
                             [**2117-10-3**]  11:13 PM
                             [**2117-10-3**]  11:23 PM
                             [**2117-10-4**]  03:05 AM
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
   WBC
   13.8
   13.0
   11.0
   Hct
   35.8
   31
   30.8
   28.1
   Plt
   399
   381
   340
   Cr
   2.3
   2.1
   1.3
   TCO2
   31
   29
   27
   26
   25
   24
   23
   Glucose
   124
   136
   144
   Other labs: PT / PTT / INR:13.3/35.5/1.1, ALT / AST:14/20, Alk Phos / T
   Bili:67/0.3, Differential-Neuts:85.5 %, Lymph:7.6 %, Mono:5.8 %,
   Eos:1.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:192 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  left central line in BC vein
   Microbiology: Pleural fluid:  NGTD
   Blood Cx:  NGTD
   UCx:  NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Improved with drainage of
   large left sided pleural effusion.  Awake this morning, check RISB,
   pressure support wean as tolerated.   Hold tube feeds given the
   possibility she may tolerate wean and head towards extubation.
 HYPOTENSION (NOT SHOCK):  Most likely sepsis.  Continues on two
   pressors.  More fluid challenges today.  [**Last Name (un) **] stimulation test does not
   suggest adrenal insufficiency.  Continues zosyn, dosing vanco in
   setting of renal failure.  No new culture data.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Secondary to
   hypovolemia/hypotension.  Cr improving.
 ANEMIA:  Hct slightly decreased.  [**Month (only) 51**] be dilutional given positive
   fluid balance in past 24 hours.
 LINES:  Change left central line over a wire to see if we can postion
   appropriately. Discontinue groin a-line, place radial a-line given
   likely need for
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-10-4**] 11:33 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-3**] 11:30 PM
   Multi Lumen - [**2117-10-4**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2117-10-06 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Extubated, pressors d/c'd, mentating well.
   -However, later in PM, hypotensive to SBP of 70, continues to mentate
   normally
   -Transiently responded to IVF boluses x3, but we did not want to
   continue load the pt. with IVF as she was getting very edematous , and
   there was concern about accumulation of pleural fluid, which would
   likely require re-intubation.  The patient was re-started on Levophed.
   -ABG at 10pm: 7.35/39/92/22/-3
   This AM, concern about leaking from a CVL as well as movement of CVL.
   Re-stiched at a closer site to insertion.  Switched from Levophed to
   Vasopressin due to concern over  levophed leaking out / skin necrosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-5**] 02:08 PM
   Vancomycin - [**2117-10-6**] 12:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-6**] 02:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-10-5**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2117-10-6**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-6**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 79 (72 - 85) bpm
   BP: 87/51(63) {67/38(49) - 135/97(113)} mmHg
   RR: 27 (15 - 31) insp/min
   SpO2: 100% on 5L NC
   Heart rhythm: AV Paced
             Total In:
                                                                  5,400 mL
                                                                    588 mL
   PO:
             TF:
                                                                    120 mL
   IVF:
                                                                  5,280 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    635 mL
   Urine:
                                                                  1,000 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,810 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.35/39/91.[**Numeric Identifier 143**]/19/-3
   Ve: 8.1 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GENERAL: Alert, responsive, NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB.
   LUNGS: Crackles b/l, decreased breath sounds compared to yesterday
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Alert, oriented and appropriate. Speech fluent, but difficulty
   competing sentences  Moves all extremities.
   Labs / Radiology
   431 K/uL
   10.5 g/dL
   102 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.9 mEq/L
   40 mg/dL
   110 mEq/L
   139 mEq/L
   34.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2117-10-4**]  03:05 AM
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
                            [**2117-10-5**]  02:06 PM
                            [**2117-10-5**]  05:01 PM
                            [**2117-10-5**]  10:16 PM
                            [**2117-10-6**]  04:20 AM
   WBC
   13.0
   11.0
   13.8
   Hct
   31
   30.8
   28.1
   34.2
   Plt
   381
   340
   431
   Cr
   2.1
   1.3
   1.2
   TCO2
   26
   25
   24
   23
   23
   21
   22
   Glucose
   136
   144
   102
   Other labs: PT / PTT / INR:12.6/32.8/1.1, ALT / AST:14/20, Alk Phos / T
   Bili:67/0.3, Differential-Neuts:85.5 %, Lymph:7.6 %, Mono:5.8 %,
   Eos:1.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:192 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ CAD s/p CABG ([**2096**]), x-fer from [**Hospital1 608**] for hypotension,
   renal failure and cancer workup, likely ovarian primary.
   #. Hypotension: Low BP and elevated WBC suggest possible sepsis,
   distrubutive shock.  There is no pericardial effusion in TTE.. [**Last Name (un) **]
   stim test demostrated appropriate response.  PE is highly unlikely.
   Increasing leukocytosis today and persistent hypotension, although no
   fevers, decent UOP.
   - Vanc and Zosyn, currently day 4.
   - Obtain Vanc trough
   - Obtain WBC differential
   - f/u cultures from [**Hospital1 608**] as well as [**Hospital1 19**]
   -Send new Blood, sputum, urine cx given increasing leukocytosis
   - hold anti-HTN and lasix
   - continue  Levophed and vasopressin as needed for MAP >60, SBP >90.
   Wean as tolerated.
   - Minimal IVF boluses, as needed to keep MAP > 60.  Try colloid instead
   of crystalloid given low Albumin.
   .
   # Pleural effusions / Respiratory status:
   -Monitor resp. status closely today.  Repeat CXR if increasing work of
   breathing, tachypnea.
   -Continue Vanc/zosyn
   -Minimize IVF as they may lead to reaccumulation of fluid
   .
   #. Oliguric renal failure: Cr 1.2 and improving, likely pre-renal /
   secondary to hypotension.  No evidence of obstruction / no
   hydronephrosis on OSH CT.
   - Hold lasix and anti-HTN
   - Monitor UOP and Cr daily
   -Renally dose meds and avoid nephrotoxins
   .
   #.  New carcinomatosis on CT / pleural effusions: last CA screening
   (mammogram, pap and colonoscopy 10-20 years ago).  Concerning due to
   elevated CEA and CA125.
   -Cytologies from OSH recent thoracentesis
   -F/u cytologies from pleural fluid here
   -Discussion with family and patient today
   -Morphine PRN for pain
   -Gyn/onc recs
   .
   #. hx CAD s/p CABG [**37**] years ago:
   - cont asa, statin
   - hold BB
   .
   PPX:
   -DVT ppx with heparin SC and Boots
   ICU Care
   Nutrition: Speech and swallow today.  Advance as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 12:31 AM
   Arterial Line
   Prophylaxis:
   DVT: Boots / Heparin SC
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-10-06 10:05:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2117-10-5**] 03:13 PM
 MULTI LUMEN - STOP [**2117-10-5**] 03:43 PM
 ARTERIAL LINE - STOP [**2117-10-5**] 03:49 PM
 INVASIVE VENTILATION - STOP [**2117-10-5**] 04:03 PM
   Continues extubated
   Hypotension overnight requiring fluid boluses with some response;
   restarted on vasopressin after >2 L boluses
   C/O abdominal discomfort this am; received 0.5 mg IV morphing
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-5**] 02:08 PM
   Vancomycin - [**2117-10-6**] 12:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-6**] 02:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-6**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: depressed affect
   Flowsheet Data as of  [**2117-10-6**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.4
C (95.8
   HR: 70 (67 - 85) bpm
   BP: 74/38(50) {67/38(49) - 135/97(113)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  5,400 mL
                                                                    659 mL
   PO:
             TF:
                                                                    120 mL
   IVF:
                                                                  5,280 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    784 mL
   Urine:
                                                                  1,000 mL
                                                                    434 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,810 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.35/39/92/19/-3
   Ve: 8.1 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: [**11-27**] way up on right,
   [**11-28**] way up on left albeit doesn't take deep breaths)
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: minimal
   lower abdominal pain with palpation, no guarding
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   431 K/uL
   102 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.9 mEq/L
   40 mg/dL
   110 mEq/L
   139 mEq/L
   34.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2117-10-4**]  03:05 AM
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
                            [**2117-10-5**]  02:06 PM
                            [**2117-10-5**]  05:01 PM
                            [**2117-10-5**]  10:16 PM
                            [**2117-10-6**]  04:20 AM
   WBC
   13.0
   11.0
   13.8
   Hct
   31
   30.8
   28.1
   34.2
   Plt
   381
   340
   431
   Cr
   2.1
   1.3
   1.2
   TCO2
   26
   25
   24
   23
   23
   21
   22
   Glucose
   136
   144
   102
   Other labs: PT / PTT / INR:12.6/32.8/1.1, ALT / AST:14/20, Alk Phos / T
   Bili:67/0.3, Differential-Neuts:85.5 %, Lymph:7.6 %, Mono:5.8 %,
   Eos:1.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:192 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  effusions R>L same to slightly increased given different
   technique between films
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): In setting of large
   pleural effusion, ?malignant.  Requiring 5 L NC to maintain saturations
   >93%.  CT in place.
 HYPOTENSION (NOT SHOCK):  Combination of low oncotic pressure and
   possible early sepsis given elevated WBC.  Check differential, repeat
   blood and urine cultures.  Continue on current antibiotics unless she
   decompensates further.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Awaiting final path/cytology.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr continues to
   improve.  Adjust med dosing accordingly.  Good urine output.
 LEUKOCYTOSIS:  WBC slightly increased from yesterday.
 DEPRESSION:  Reactive depression to recently finding out probable
   diagnosis of malignancy.
 ABDOMINAL PAIN:  Abdomen remains nondistended.  Minimally tender in
   lower quadrants, no guarding.  Likely related to underlying
   malignancy.  Minimal ascites on prior CT albeit with increased WBC may
   consider reimaging to see if there is enough for a diagnostic
   pericentesis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-4**] 06:30 PM
   Arterial Line - [**2117-10-5**] 03:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-10-07 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [ ]f/u micro data
   [**2117-9-29**] urine culture: <10K, mixed gram positive flora
   [ ]repeat cultures
   [ ]add differential to Hct
   [ ]give albumin rather than crystalloid to support BP
   [ ]f/u gyn/onc recs
   [ ]f/u cytology, path
   [ ]discuss diagnosis with patient - patient aware
   [ ]check vanc trough
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-5**] 02:08 PM
   Vancomycin - [**2117-10-7**] 12:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-7**] 02:31 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-7**] 12:06 AM
   Morphine Sulfate - [**2117-10-7**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-7**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 75 (63 - 95) bpm
   BP: 105/46(63) {74/38(50) - 144/68(94)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,127 mL
                                                                    772 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,787 mL
                                                                    772 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,649 mL
                                                                    570 mL
   Urine:
                                                                    959 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    478 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   GENERAL: Alert, responsive, NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB.
   LUNGS: Crackles b/l, decreased breath sounds compared to yesterday
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Alert, oriented and appropriate. Speech fluent, but difficulty
   competing sentences  Moves all extremities.
   Labs / Radiology
   399 K/uL
   9.8 g/dL
   99 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   34 mg/dL
   114 mEq/L
   144 mEq/L
   31.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
                            [**2117-10-5**]  02:06 PM
                            [**2117-10-5**]  05:01 PM
                            [**2117-10-5**]  10:16 PM
                            [**2117-10-6**]  04:20 AM
                            [**2117-10-7**]  03:51 AM
   WBC
   13.0
   11.0
   13.8
   10.2
   Hct
   30.8
   28.1
   34.2
   31.7
   Plt
   381
   340
   431
   399
   Cr
   2.1
   1.3
   1.2
   1.1
   TCO2
   25
   24
   23
   23
   21
   22
   Glucose
   136
   144
   102
   99
   Other labs: PT / PTT / INR:13.1/34.3/1.1, ALT / AST:27/28, Alk Phos / T
   Bili:64/0.4, Differential-Neuts:76.7 %, Lymph:12.0 %, Mono:8.9 %,
   Eos:2.2 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ CAD s/p CABG ([**2096**]), x-fer from [**Hospital1 608**] for hypotension,
   renal failure and cancer workup, likely ovarian primary.
   #. Hypotension: Low BP and elevated WBC suggest possible sepsis,
   distrubutive shock.  There is no pericardial effusion in TTE.. [**Last Name (un) **]
   stim test demostrated appropriate response.  PE is highly unlikely.
   Increasing leukocytosis today and persistent hypotension, although no
   fevers, decent UOP.
   - Vanc and Zosyn, currently day 4.
   - Obtain Vanc trough
   - Obtain WBC differential
   - f/u cultures from [**Hospital1 608**] as well as [**Hospital1 19**]
   -Send new Blood, sputum, urine cx given increasing leukocytosis
   - hold anti-HTN and lasix
   - continue  Levophed and vasopressin as needed for MAP >60, SBP >90.
   Wean as tolerated.
   - Minimal IVF boluses, as needed to keep MAP > 60.  Try colloid instead
   of crystalloid given low Albumin.
   .
   # Pleural effusions / Respiratory status:
   -Monitor resp. status closely today.  Repeat CXR if increasing work of
   breathing, tachypnea.
   -Continue Vanc/zosyn
   -Minimize IVF as they may lead to reaccumulation of fluid
   .
   #. Oliguric renal failure: Cr 1.2 and improving, likely pre-renal /
   secondary to hypotension.  No evidence of obstruction / no
   hydronephrosis on OSH CT.
   - Hold lasix and anti-HTN
   - Monitor UOP and Cr daily
   -Renally dose meds and avoid nephrotoxins
   .
   #.  New carcinomatosis on CT / pleural effusions: last CA screening
   (mammogram, pap and colonoscopy 10-20 years ago).  Concerning due to
   elevated CEA and CA125.
   -Cytologies from OSH recent thoracentesis
   -F/u cytologies from pleural fluid here
   -Discussion with family and patient today
   -Morphine PRN for pain
   -Gyn/onc recs
   .
   #. hx CAD s/p CABG [**37**] years ago:
   - cont asa, statin
   - hold BB
   .
   PPX:
   -DVT ppx with heparin SC and Boots
   ICU Care
   Nutrition: Speech and swallow today.  Advance as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-3**] 12:31 AM
   Arterial Line
   Prophylaxis:
   DVT: Boots / Heparin SC
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-10-07 12:52:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Slight appetite this morning
   Back on levo for BP in 80's, mentating
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-5**] 02:08 PM
   Vancomycin - [**2117-10-7**] 12:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-7**] 09:36 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2117-10-7**] 12:07 AM
   Heparin Sodium (Prophylaxis) - [**2117-10-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-7**] 12:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (96.9
   HR: 75 (63 - 95) bpm
   BP: 125/60(81) {95/41(59) - 144/68(94)} mmHg
   RR: 28 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,127 mL
                                                                    977 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,787 mL
                                                                    977 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,649 mL
                                                                    690 mL
   Urine:
                                                                    959 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    478 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, epistaxis
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   399 K/uL
   99 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   34 mg/dL
   114 mEq/L
   144 mEq/L
   31.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2117-10-4**]  04:54 AM
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
                            [**2117-10-5**]  02:06 PM
                            [**2117-10-5**]  05:01 PM
                            [**2117-10-5**]  10:16 PM
                            [**2117-10-6**]  04:20 AM
                            [**2117-10-7**]  03:51 AM
   WBC
   13.0
   11.0
   13.8
   10.2
   Hct
   30.8
   28.1
   34.2
   31.7
   Plt
   381
   340
   431
   399
   Cr
   2.1
   1.3
   1.2
   1.1
   TCO2
   25
   24
   23
   23
   21
   22
   Glucose
   136
   144
   102
   99
   Other labs: PT / PTT / INR:13.1/34.3/1.1, ALT / AST:27/28, Alk Phos / T
   Bili:64/0.4, Differential-Neuts:76.7 %, Lymph:12.0 %, Mono:8.9 %,
   Eos:2.2 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Morphine, adequately
   controlled.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Comfortable from a
   respiratory standpoint on nasal cannula, epistaxis this am likely
   secondary to the dryness, change to humidified face mask. Chest tube to
   water seal, no leak.  Output has decreased.
 PLEURAL EFFUSION:  As above.  Cytology negative to date.  Consult med
   oncology.
 HYPOTENSION (NOT SHOCK):  Despite total body fluid overlaoded, still
   intravascularly depleted.  IVF bolus, consider albumin.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  [**Hospital 1861**] medical oncology consult.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr slightly
   improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-10-4**] 06:30 PM
   Arterial Line - [**2117-10-5**] 03:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2117-10-08 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The patient is maintaining BPs off pressors.
   CVL was leaking and was d/c
d at 2300.  She will get a new PICC in AM.
   Dr [**Last Name (STitle) 3080**] met w/ patient and family re: code status.  She is now DNR
   but can be intubated for short periods of time
   Got a small dose of Ativan for sleep this AM.
   This AM, pt. reports breathing better.  States her pain is under
   control.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-5**] 02:08 PM
   Vancomycin - [**2117-10-8**] 12:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-8**] 02:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-8**] 12:33 AM
   Morphine Sulfate - [**2117-10-8**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-8**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 93 (67 - 93) bpm
   BP: 102/71(79) {95/43(53) - 117/75(80)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,848 mL
                                                                    720 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,788 mL
                                                                    720 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,440 mL
                                                                    700 mL
   Urine:
                                                                  1,140 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,408 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% on 3L NC
   ABG: ///19/
   Physical Examination
   GENERAL: Alert, responsive, NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 2/6 systolic
   murmur at LUSB.
   LUNGS: Crackles b/l, decreased  breath sounds
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Alert, oriented and appropriate. Speech fluent, but difficulty
   competing sentences  Moves all extremities.
   Labs / Radiology
   391 K/uL
   9.7 g/dL
   95 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   26 mg/dL
   112 mEq/L
   144 mEq/L
   31.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
                            [**2117-10-5**]  02:06 PM
                            [**2117-10-5**]  05:01 PM
                            [**2117-10-5**]  10:16 PM
                            [**2117-10-6**]  04:20 AM
                            [**2117-10-7**]  03:51 AM
                            [**2117-10-8**]  03:07 AM
   WBC
   11.0
   13.8
   10.2
   9.1
   Hct
   28.1
   34.2
   31.7
   31.3
   Plt
   [**Telephone/Fax (3) 11472**]91
   Cr
   1.3
   1.2
   1.1
   0.9
   TCO2
   25
   24
   23
   23
   21
   22
   Glucose
   144
   102
   99
   95
   Other labs: PT / PTT / INR:13.6/38.5/1.2, ALT / AST:24/27, Alk Phos / T
   Bili:61/0.5, Differential-Neuts:78.3 %, Lymph:11.4 %, Mono:7.6 %,
   Eos:2.4 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ CAD s/p CABG ([**2096**]), x-fer from [**Hospital1 608**] for hypotension,
   renal failure and cancer workup, likely ovarian primary.
   #. Hypotension: Low BP and elevated WBC suggest possible sepsis,
   distrubutive shock.  There is no pericardial effusion in TTE. [**Last Name (un) **] stim
   test demostrated appropriate response.  PE is highly unlikely.
   Increasing leukocytosis today and persistent hypotension, although no
   fevers, decent UOP.
   - Vanc and Zosyn, currently day 6 of a 7 day course.
   - f/u cultures from [**Hospital1 608**] as well as [**Hospital1 19**] (blood, sputum, urine)
   - hold anti-HTN and lasix
   - IVF boluses, as needed to keep MAP > 60.
   .
   # Pleural effusions / Respiratory status:  Continues to drain large
   amt. of fluid through chest tube.  Chest tube to stay in place for now.
   -Monitor resp. status closely today.  Repeat CXR if increasing work of
   breathing, tachypnea.
   -Continue Vanc/zosyn
   -Minimize IVF as they may lead to reaccumulation of fluid
   .
   #. Oliguric renal failure: Cr 0.9 and improving, likely pre-renal /
   secondary to hypotension.  No evidence of obstruction / no
   hydronephrosis on OSH CT.
   - Hold lasix and anti-HTN
   - Monitor UOP and Cr daily
   -Renally dose meds and avoid nephrotoxins
   .
   #.  New carcinomatosis on CT / pleural effusions: last CA screening
   (mammogram, pap and colonoscopy 10-20 years ago).  Concerning due to
   elevated CEA and CA125.
   -Cytologies from OSH recent thoracentesis
   -F/u cytologies from pleural fluid here
   -Tylenol and Morphine PRN for pain
   -Med/Onc consult
   .
   # hx CAD s/p CABG [**37**] years ago:
   - cont asa, statin
   - hold BB
   .
   PPX:
   -DVT ppx with heparin SC and Boots
   ICU Care
Nutrition: thin liquids and moist, ground solids
   Glycemic Control:
   Lines:
   PIV
   Arterial Line
   Prophylaxis:
   DVT: Boots / Heparin SC
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, but may intubate for short periods of time
   Disposition: Call out today

2117-10-08 11:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, pleural effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2117-10-7**] 10:08 PM
 MULTI LUMEN - STOP [**2117-10-7**] 10:20 PM
   Off pressors
   Central line discontinued
   Epistaxis resolved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2117-10-5**] 02:08 PM
   Vancomycin - [**2117-10-8**] 12:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-8**] 08:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-10-8**] 03:30 AM
   Heparin Sodium (Prophylaxis) - [**2117-10-8**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-10-8**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 71 (67 - 93) bpm
   BP: 120/70(80) {95/43(53) - 120/87(92)} mmHg
   RR: 19 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,848 mL
                                                                    865 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,788 mL
                                                                    865 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,440 mL
                                                                    740 mL
   Urine:
                                                                  1,140 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,408 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   391 K/uL
   95 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   26 mg/dL
   112 mEq/L
   144 mEq/L
   31.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2117-10-4**]  05:01 AM
                             [**2117-10-4**]  10:06 AM
                             [**2117-10-4**]  08:42 PM
                            [**2117-10-5**]  04:00 AM
                            [**2117-10-5**]  02:06 PM
                            [**2117-10-5**]  05:01 PM
                            [**2117-10-5**]  10:16 PM
                            [**2117-10-6**]  04:20 AM
                            [**2117-10-7**]  03:51 AM
                            [**2117-10-8**]  03:07 AM
   WBC
   11.0
   13.8
   10.2
   9.1
   Hct
   28.1
   34.2
   31.7
   31.3
   Plt
   [**Telephone/Fax (3) 11472**]91
   Cr
   1.3
   1.2
   1.1
   0.9
   TCO2
   25
   24
   23
   23
   21
   22
   Glucose
   144
   102
   99
   95
   Other labs: PT / PTT / INR:13.6/38.5/1.2, ALT / AST:24/27, Alk Phos / T
   Bili:61/0.5, Differential-Neuts:78.3 %, Lymph:11.4 %, Mono:7.6 %,
   Eos:2.4 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Adequately controlled on prn
   morphine
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Stable. Persistent
   pleural effusion, chest tube in place.
 SEPTIC SHOCK:  Resolved, stable off pressors.  Continues on abx for
   presumed sepsis, no new culture data.  WBC trending down.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  No confirmation on cytology.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Slightly positive
   fluid balance over the day yesterday.  Cr continues to improve to 0.9,
   near baseline.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-10-7**] 05:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 30 minutes